datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCCc1cccn[n+:21]1[H:20].N#CCCC(=O)[O-:10]>>CCCCCc1cccn[n:21]1.N#CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2:10])[C@@H](C)[C@H]1N.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2+:10][H:20])[C@@H](C)[C@H]1N.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCCP(CCC)(CCC)=[O:10].Cn1ncc2c(NCc3ccco3)nc[n+:21]([H:20])c21>>CCCP(CCC)(CCC)=[O+:10][H:20].Cn1ncc2c(NCc3ccco3)nc[n:21]c21 10=20;20,21=21",
"CCc1cc(C)[n+:21]([H:20])nc1C.C[C@H]1CC[N:10]2CCC[C@@H]12>>CCc1cc(C)[n:21]nc1C.C[C@H]1CC[N+:10]2([H:20])CCC[C@@H]12 10=20;20,21=21",
"CS/C(Nc1ccccc1)=[NH+:21]/[H:20].Cc1ccc(C(c2ccccc2)=[NH:10])c(C)c1>>CSC(Nc1ccccc1)=[NH:21].Cc1ccc(C(c2ccccc2)=[NH+:10][H:20])c(C)c1 10=20;20,21=21",
"CCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCC.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCC)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CN(C)/C=[N:10]\c1ccc(Cl)cc1.Cc1cc(C)[n+:21]([H:20])c(N)n1>>CN(C)/C=[N+:10](\c1ccc(Cl)cc1)[H:20].Cc1cc(C)[n:21]c(N)n1 10=20;20,21=21",
"CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1cccc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])c1.COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n:10]1>>CCOC(=O)c1c(C)nc(C)c(C(=O)OCC)c1-c1cccc([N-:21]S(=O)(=O)c2ccc(N)cc2)c1.COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:10]1[H:20] 10=20;20,21=21",
"N[N-:10]C(=O)C(F)(F)C(F)(F)C(F)(F)F.O=[Se](c1cccc(-c2ccccc2)c1)[O:21][H:20]>>N[N:10](C(=O)C(F)(F)C(F)(F)C(F)(F)F)[H:20].O=[Se](c1cccc(-c2ccccc2)c1)[O-:21] 10=20;20,21=21",
"O=C(NNc1ccc(Br)cc1)c1cc[n:10]cc1.S=C1N/C(=[S+:21]\[H:20])NC1c1ccccc1>>O=C(NNc1ccc(Br)cc1)c1cc[n+:10]([H:20])cc1.S=C1NC(=[S:21])NC1c1ccccc1 10=20;20,21=21",
"CCCC(=O)OC(C)C[N:10](C)C.Cn1nc([N+](=O)[O-])nc1[N:21](N=O)[H:20]>>CCCC(=O)OC(C)C[N+:10](C)(C)[H:20].Cn1nc([N+](=O)[O-])nc1[N-:21]N=O 10=20;20,21=21",
"O=C(C1c2ccccc2-c2ccccc21)[O:21][H:20].O=C(c1cccc[nH+]1)[O-:10]>>O=C(C1c2ccccc2-c2ccccc21)[O-:21].O=C(c1cccc[nH+]1)[O:10][H:20] 10=20;20,21=21",
"CN1c2ccccc2Nc2c1cccc2[O:21][H:20].COc1ccc2c3c([n-:10]c2c1)C(C)=NCC3>>CN1c2ccccc2Nc2c1cccc2[O-:21].COc1ccc2c3c([n:10]([H:20])c2c1)C(C)=NCC3 10=20;20,21=21",
"C1N2CN3CN1C[N+:21]([H:20])(C2)C3.O=[N+]([O-])c1ccccc1/C=N\[O-:10]>>C1N2CN3CN1C[N:21](C2)C3.O=[N+]([O-])c1ccccc1/C=N\[O:10][H:20] 10=20;20,21=21",
"C=CC[N:10](C)C.Cc1cccc(C)c1NC(=O)C[N+:21]1([H:20])CCCCC1>>C=CC[N+:10](C)(C)[H:20].Cc1cccc(C)c1NC(=O)C[N:21]1CCCCC1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Oc1cccc(C[NH2:10])c1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Oc1cccc(C[NH2+:10][H:20])c1 10=20;20,21=21",
"COc1ccc(CCC(=O)[O:21][H:20])cc1.Nc1n[n-:10]cc1[N+](=O)[O-]>>COc1ccc(CCC(=O)[O-:21])cc1.Nc1n[n:10]([H:20])cc1[N+](=O)[O-] 10=20;20,21=21",
"COCc1ccccc1C(=O)[O:21][H:20].Cc1c[nH]c(C(=O)[O-:10])c1>>COCc1ccccc1C(=O)[O-:21].Cc1c[nH]c(C(=O)[O:10][H:20])c1 10=20;20,21=21",
"CCNC1=CC(=[N+:21](CC)[H:20])CC(C)(C)C1.C[C@H]([NH3+])[C@@H](C)[NH2:10]>>CCNC1=CC(=[N:21]CC)CC(C)(C)C1.C[C@H]([NH3+])[C@@H](C)[NH2+:10][H:20] 10=20;20,21=21",
"O=S(=O)(C(F)(F)F)[N:21](c1ccc(Cl)cc1)[H:20].[O-]c1c2ccccc2nc[n:10]1>>O=S(=O)(C(F)(F)F)[N-:21]c1ccc(Cl)cc1.[O-]c1c2ccccc2nc[n+:10]1[H:20] 10=20;20,21=21",
"CN1C(=O)C2=C(N(C)C1=O)[N:21]([H:20])C(=O)N2C.CSc1ccc([NH2:10])cc1>>CN1C(=O)C2=C(N(C)C1=O)[N-:21]C(=O)N2C.CSc1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"C[NH+:21](CCN)[H:20].OCc1ccc([O-:10])c(CO)c1>>C[NH:21]CCN.OCc1ccc([O:10][H:20])c(CO)c1 10=20;20,21=21",
"Ic1nnn[n-:10]1.O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O:21][H:20]>>Ic1nnn[n:10]1[H:20].O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O-:21] 10=20;20,21=21",
"Cc1ncnc2c([O-:10])cccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ncnc2c([O:10][H:20])cccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C1C=CC(=Nc2ccc([O-:10])cc2)C=C1.c1ccc(/N=N/c2ccc([NH2+:21][H:20])cc2)cc1>>O=C1C=CC(=Nc2ccc([O:10][H:20])cc2)C=C1.c1ccc(/N=N/c2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"CC(C)N(C)/C=[NH+]/c1ccc(-c2c[nH]c[n+:21]2[H:20])cc1.N#CC(C#N)=C(C#N)[N-:10]C1CCCCC1>>CC(C)N(C)/C=[NH+]/c1ccc(-c2c[nH]c[n:21]2)cc1.N#CC(C#N)=C(C#N)[N:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"CC1CCC[NH:10]C1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1CCC[NH+:10]([H:20])C1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"NCCCC[NH:10]CCCN.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>NCCCC[NH+:10](CCCN)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC1(C)SC2C(C(=O)[O-])[NH+]=C(CCC[C@@H](C(=O)[O-])[NH2+:21][H:20])N2[C@@H]1C(=O)[O-].c1ccc(CC2CCC[NH:10]2)cc1>>CC1(C)SC2C(C(=O)[O-])[NH+]=C(CCC[C@@H](C(=O)[O-])[NH2:21])N2[C@@H]1C(=O)[O-].c1ccc(CC2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"Cc1c(C)c([O:21][H:20])c(C)c(C)c1[O-].Cc1cccc(N)[n:10]1>>Cc1c(C)c([O-:21])c(C)c(C)c1[O-].Cc1cccc(N)[n+:10]1[H:20] 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2ccc(S(N)(=O)=O)cc2)cc1.Nc1ccccc1C(=O)[N:21](N)[H:20]>>Nc1ccc(S(=O)(=O)[N:10](c2ccc(S(N)(=O)=O)cc2)[H:20])cc1.Nc1ccccc1C(=O)[N-:21]N 10=20;20,21=21",
